US06323229B1
A mixture of 2-(4-methylpiperazin-1-yl)benzaldehyde (5 grams, 24.5 mmol, prepared according to the method of D. Reinhoudt et al., Synthesis, 1987, 641), dimethylamine hydrochoride (4 grams, 49 mmol), potassium fluoride (0.213 grams, 3.7 mmol) and nitromethane (100 mL) in anhydrous toluene (100 mL) was refluxed under nitrogen using a Dean Stark trap to collect the azeotroped water. After 2 hour the reaction was determined to be completed by thin layer chromatography using triethylamine: methanol: ethyl acetate (5:10:85). The solvents were removed in vacuo and the residue was partitioned between methylene chloride and saturated aqueous sodium carbonate. The organic layer was then washed with saturated sodium chloride, dried and concentrated to a red oil, 5.69 grams. Chromatography using silica gel on a 4×1.75 inch column, eluting with 100% ethyl acetate followed by increasing percentages of methanol, produced 4.03 grams of 1-methyl-4-[2-(2-nitrovinyl)-phenyl]-piperazine as a light orange solid.

reactant | 2-(4-methylpiperazin-1-yl)benzaldehyde | CN1CCN(CC1)C1=C(C=O)C=CC=C1 | C12H16N2O
reactant | dimethylamine hydrochoride | 49 mmol, 4 grams | Cl.CNC
reactant | potassium fluoride | 3.7 mmol, 0.213 grams | [F-].[K+]
reactant | nitromethane | 100 mL | [N+](=O)([O-])C | CH3NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-[2-(2-nitrovinyl)-phenyl]-piperazine | 4.03 grams | CN1CCN(CC1)C1=C(C=CC=C1)C=C[N+](=O)[O-] | C13H17N3O2
